US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-2-naphthalenesul-fonamide hydrochloride (Scheme 3)
The compound was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide and 2-napthalenesufonylchloride (103 mg, 0.455 mmol) to give before Boc-deprotection 120 mg of a purple solid. M+1 475.1 Calcd 474.14.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C | C17H28N4O4S
reactant | 2-napthalenesufonylchloride | 0.455 mmol, 103 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-2-naphthalenesul-fonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)NS(=O)(=O)C | InChI=1S/C22H26N4O4S2.ClH/c1-31(27,28)24-22-16-19(26-13-4-11-23-12-14-26)8-10-21(22)25-32(29,30)20-9-7-17-5-2-3-6-18(17)15-20;/h2-3,5-10,15-16,23-25H,4,11-14H2,1H3;1H
